US06875778B2
Preparation of 1,4-bis[(6-chloronicotinyl)-2-nitroiminoimidazolidin-3-yl]-2-butene
Imidacloprid (3.37 g, 12 mmol), 1,4-dibromo-2-butene (1.60 g, 6 mmol), and potassium carbonate (1.83 g, 12 mmol) were mixed in 30 ml of acetonitrile, and the mixture was refluxed for 19 hours. After distilling off the solvent under reduced pressure, the residue was extracted with chloroform, and the chloroform layer was dried over magnesium sulfate. After distilling off the solvent, the residue was then subjected to silica gel column chromatography with a mixed solvent of ethyl acetate and ethanol (15:1 (v/v)) as the eluate. The crude product was purified by recrystallizing from ethanol. The yield of crystalline product was 0.22 g (7%), and the melting point was 199 to 202° C. The results of elementary analysis and NMR analysis are shown below.

reactant | Imidacloprid | 12 mmol, 3.37 g | C1=CC(=NC=C1CN\2CCN/C2=N\[N+](=O)[O-])Cl | C9H10ClN5O2
reactant | 1,4-dibromo-2-butene | 6 mmol, 1.60 g | BrCC=CCBr | C4H6Br2
reactant | potassium carbonate | 12 mmol, 1.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1,4-bis[(6-chloronicotinyl)-2-nitroiminoimidazolidin-3-yl]-2-butene | ClC1=NC=C(CN2C(N(CC2)CC=CCN2C(N(CC2)CC2=CN=C(C=C2)Cl)=N[N+](=O)[O-])=N[N+](=O)[O-])C=C1 | C22H24Cl2N10O4
